US07071340B2
12.3 mg (0.15 mmol) of sodium acetate and then 10.4 mg (0.15 mmol) of hydroxylamine hydrochloride are added at ambient temperature to 30 mg (0.136 mmol) of 3-(chloromethylene)-2,3-dihydro-1-benzoxepin-7-carbaldehyde, prepared according to example 72, in solution in 2 ml of methanol. The solution is stirred for 24 hours and is then hydrolyzed. A conventional treatment makes it possible to obtain 35 mg (100%) of 1-[3-(chloromethylene)-2,3-dihydro-1-benzoxepin-7-yl]ethanone oxime in the solid form; 1H NMR: 7.9–8.3 (broad s, OH), 8.10 (8.05) (s, 1H), 7.35–7.45 (m, 2H), 7.03 (7.00) (d, J=8.4 Hz, 1H), 6.84 (d, J=11.7 Hz, 1H), 6.35 (s, 3H), 4.88 (4.57)(s, 2H).

reactant | sodium acetate | 0.15 mmol, 12.3 mg | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.15 mmol, 10.4 mg | Cl.NO
reactant | 3-(chloromethylene)-2,3-dihydro-1-benzoxepin-7-carbaldehyde | 0.136 mmol | ClC=C1COC2=C(C=C1)C=C(C=C2)C=O | C12H9ClO2
solvent | methanol | 2 ml | CO | CH4O
product | 1-[3-(chloromethylene)-2,3-dihydro-1-benzoxepin-7-yl]ethanone oxime | 35 mg, 100% | ClC=C1COC2=C(C=C1)C=C(C=C2)C(C)=NO | C13H12ClNO2
